US04297096
To a solution of ethyl trans, trans-2,4-nonadienoate (25 g) in dry ether (250 ml) was added dropwise lithium aluminum hydride (5 g) with stirring under ice-cooling in the course of an hour. The reaction mixture was stirred for an hour at ambient temperature. To the resultant mixture was added ether containing water and then insoluble materials were removed by filtration. The organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give oily trans, trans-2,4-nonadien-1-ol (20 g).

reactant | trans-2,4-nonadienoate | 25 g | C(\C=C\C=CCCCC)(=O)[O-]
reactant | lithium aluminum hydride | 5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | ether | 250 ml | CCOCC | C4H10O
product | trans-2,4-nonadien-1-ol | 20 g | C(\C=C\C=CCCCC)O | C9H16O
